US09302991B2
<Step-1>: 6-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide (single enantiomer)
The title compound is prepared in 90% yield (195 mg, clear colorless oil) from (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (167 mg, 0.58 mmol, Amine-5, single enantiomer) and 6-aminopyrimidine-4-carboxylic acid (80 mg, 0.58 mmol) by the similar manner in Step-1 of Example 8.

reactant | (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.58 mmol, 167 mg | Cl.ClC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 6-aminopyrimidine-4-carboxylic acid | 0.58 mmol, 80 mg | NC1=CC(=NC=N1)C(=O)O | C5H5N3O2
product | 6-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide | 90% yield | NC1=CC(=NC=N1)C(=O)NC(C)C=1C=NC(=C(C1)Cl)OCC(F)(F)F | C14H13ClF3N5O2
